Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with history of prediabetes
who presents as a transfer from ___ for possible
posterior circulation stroke.  Outside hospital records 
indicates
that aggravating factors include moving his head, or positional
changes.  In discussion with Mr. ___ this morning, he
describes only positional changes as exacerbating his symptoms. 
He reports some mild baseline dizziness when laying still in 
bed,
however this worsens when he sits upright, or stands.  No emesis
since ___.
Outside hospital CTA showed occlusion of the left vertebral
artery, at the origin with some retrograde flow in the
intracranial V4 segment.  Of note, there is significant areas of
calcification in the mid cervical vertebral artery.
 

 
Past Medical History:
BPH 
prediabetes
 
Social History:
___
Family History:
Mother with hypertension, hyperlipidemia, diabetes
Father with hypertension, hyperlipidemia, coronary artery
disease, strokes
Brother with coronary artery disease, status post CABG at age ___

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals:  
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: CTAB, no rales, rhonchi or wheezes. Breathing
comfortably, no tachypnea nor increased WOB
Cardiac: RRR, no m/r/g. Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Speech is fluent with normal grammar
and syntax. No paraphasic errors.  Comprehension intact to
complex, cross-body commands. Normal prosody. 

-Cranial Nerves: PERRL 4->3.  EOMI with right-beating nystagmus
with right gaze. Facial sensation intact to light touch. Face
symmetric at rest and with activation. Hearing intact to finger
rub. Palate elevates symmetrically. Tongue protrudes in midline.

- Motor:  Normal bulk and tone. No drift. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc
L  5    ___   ___  5   5    5  5     5     
R  5    ___   ___  5   5    5  5     5     

-Sensory: Proprioception intact BUE. Intact to LT throughout. No
extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. No rebound. HTN without ataxia. 

- Gait: Patient refused gait exam due to vertigo
=======================================================
Physical Exam:
Vitals: Tm/c: 98.6/98.5 BP: 121-127/76-83 HR: ___ RR: 18 SaO2: 
96% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented to medical situation. Attentive 
to exam. Language is fluent, no paraphasic errors. Follows 
complex commands. 

-Cranial Nerves: EOMI with ___ beats of right-beating nystagmus 
with rightgaze. Face symmetric at rest and with activation. 
Hearing intact to conversation. No dysarthria.  

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Strength ___ throughout. 

-Sensory: Proprioception intact BUE. Intact to LT throughout. 

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally. No rebound. Fine RAM are fast 
and accurate. 

-Gait: minimally wide-based, good stride length and mildly 
reduced speed. 

 
Pertinent Results:
___ 09:10AM BLOOD WBC-12.6* RBC-4.35* Hgb-12.7* Hct-38.8* 
MCV-89 MCH-29.2 MCHC-32.7 RDW-14.4 RDWSD-46.5* Plt ___
___ 05:40AM BLOOD WBC-8.4 RBC-4.50* Hgb-13.4* Hct-39.1* 
MCV-87 MCH-29.8 MCHC-34.3 RDW-13.3 RDWSD-41.8 Plt ___
___ 09:10AM BLOOD ___ PTT-27.9 ___
___ 09:10AM BLOOD Glucose-92 UreaN-16 Creat-0.8 Na-143 
K-3.6 Cl-103 HCO3-25 AnGap-19
___ 05:40AM BLOOD Glucose-96 UreaN-14 Creat-0.8 Na-138 
K-3.8 Cl-99 HCO3-24 AnGap-19
___ 09:10AM BLOOD ALT-21 AST-18 LD(LDH)-193 CK(CPK)-142 
AlkPhos-84 TotBili-0.5
___ 09:10AM BLOOD CK-MB-3 cTropnT-<0.01
___ 09:10AM BLOOD Albumin-4.1 Cholest-211*
___ 09:10AM BLOOD %HbA1c-5.9 eAG-123
___ 09:10AM BLOOD Triglyc-134 HDL-68 CHOL/HD-3.1 
LDLcalc-116
___ 09:10AM BLOOD TSH-0.57

Imaging: 
CT head w/o OSH: (my read) unremarkable

CTA head/neck from CHA: (my read) occlusion of the L vertebral 
artery at or near the origin with some retrograde filling in the 
V4 segment. Of note, there is significant calcification of the 
mid-cervical vertebral artery indicative of prior severe 
stenosis of this region. 

MRI/MRA ___: 1. Acute to subacute infarct in the left 
inferior cerebellar hemisphere in the ___ territory with 
occlusion of the left vertebral artery.  No priors are available 
for comparison. 
2. Remainder of the intracranial arterial vasculature is patent 
without significant stenosis, additional areas of occlusion, or 
aneurysm. 

Echo ___: No ASD, PFO or LV thrombus seen. Normal global and 
regional biventricular systolic function.  
 
Brief Hospital Course:
Mr. ___ was admitted with dizziness, found to have L 
vertebral artery occlusion and ___ infarct. His dizziness 
improved, and he was cleared by ___ to go home with outpt ___. 
Echo negative for embolic source. The L vertebral artery 
occlusion is possibly atherosclerotic in nature given 
significant calcification at one point in the mid-cervical 
vertebral artery indicating moderate to severe chronic stenosis. 
Other possibilities include cardioembolic. 
He was started on aspirin 81 and statin, and discharged with 
plan for outpatient ___ of Hearts monitoring. 

24 hour events prior to discharge: 
- Mr. ___ was about to leave on ___, when he had an 
episode of vasovagal presyncope in the setting of anxiety. 
Additionally, there was felt to be a possible contribution of 
orthostasis as he was orthostatic by HR but not BP criteria. He 
received IVF bolus and was encouraged to take PO fluids, which 
he did steadily overnight. He did not have a ride overnight ___ 
and left in the morning of ___. 

=====================================
Transitional Issues: 
[ ] PCP: consider starting an antihypertensive. SBP ranged 
120-140s during the admission. Aggressive BP management was not 
initiated in the acute setting after stroke given goal of 
permissive hypertension for the first days post-infarct. 

======================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 116) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Terazosin 2 mg PO QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*3 
3.  Terazosin 2 mg PO QHS  
4.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
acute occlusion of the left vertebral artery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Sr. ___ fue ___ hospital debido ha un sentido de mareo. Un 
MRI demonstro un derrame cerebral, lo cual es una condition en 
___ las arterias ___ proporcionan oxigeno al ___ son 
___. El ___ del ___ controla y 
dirije todas las otras partes ___, asi ___ cuando 
alguna ___ del ___ de oxigeno y sangre, 
___ resultar en varios sintomas. Un derrame cerebral ___ 
___ muchas causas, y por ___ fue evaluada para 
determiner si tiene alguna condicion medica ___ 
___ el derrame cerebral. 

Para poder prevenir un derrame cerebral en el futuro, planeamos 
modificar sus riesgos. ___ ___ son ___:  

___ 

Estamos cambiando sus medicamentos, ___. 
Por favor tome sus medicamentos como recetados.

Por favor ___ con Neurologia y con ___ medico de 
atención primaria.  

Si experimenta alguno de ___, por favor 
___ medica llamando al 911. En particular, ___ 
un derrame cerebral ___ ocurrir de nuevo, por favor ponga 
attention ___ o rapida progression de ___ :  
- Parcial o completa perdida de vision ___ occur repentinamente 
- Repentina inabilidad de producir ___ boca 
- Repentina inabilidad de comprender cuando ___ 
- Repentina debilidad en ___ 
- Repentina ___ 
- Repentina perdida de ___ 
 
Sinceramente, 
___ de Neurologia de ___

 
Followup Instructions:
___